US04407798
To a solution of 7-[2-tert-butoxycarbonylmethoxyimino-2-(6-aminopyridin-2-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (5.0 g) in formic acid (50 ml) was added conc. hydrochloric acid (2 ml), and the mixture was stirred at ambient temperature for an hour. After the solvent was removed by distillation under reduced pressure, the residue was dissolved in water (100 ml), followed by subjecting to column chromatography on a non-ionic adsorption resin, "Diaion HP-20" (200 ml). After the column was washed with water (600 ml), elution was carried out with 10% aqueous methanol. The eluates containing a desired compound were collected, evaporated to remove methanol under reduced pressure and then lyophilized to obtain 7-[2-carboxymethoxyimino-2-(6-aminopyridin-2-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (3.0 g), mp 100° to 108° C. (dec.).

reactant | 7-[2-tert-butoxycarbonylmethoxyimino-2-(6-aminopyridin-2-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 5.0 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NC(=CC=C1)N | C26H28N6O7S
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | 7-[2-carboxymethoxyimino-2-(6-aminopyridin-2-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 3.0 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NC(=CC=C1)N | C22H20N6O7S
